US04474692
To 100 ml of ethanol, there are added 3 g of L-alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate, 0.75 g of sodium acetate, 1.5 g of acetic acid, 5 g of molecular sieve 3A and 5 g of ethyl 4-(4-benzyloxyphenyl)-2-oxobutyrate, and catalytic reduction is carried out using Raney nickel as catalyst. When the hydrogen absorption has ceased, the catalyst is removed, and catalytic reduction is further carried out using palladium-carbon as catalyst. The catalyst is filtered off and the solvent is distilled off under reduced pressure to give N-[1-ethoxycarbonyl-3-(p-hydroxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester as oil. This oil is converted by the reaction procedure as used in Example 4 to N-[1-ethoxycarbonyl-3-(4-hydroxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine hydrobromide, which is further converted to the hydrochloride by the procedure of Example 6. There is thus obtained 0.65 g of N-[1-ethoxycarbonyl-3-(4-hydroxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine hydrochloride as colorless crystals melting at 126°-130° C. with decomposition.

reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | L-alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate | 3 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)C)=O)=O
reactant | sodium acetate | 0.75 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 4-(4-benzyloxyphenyl)-2-oxobutyrate | 5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(C(=O)OCC)=O | C19H20O4
catalyst | Raney nickel | [Ni] | Ni
solvent | acetic acid | 1.5 g | C(C)(=O)O | C2H4O2
product | N-[1-ethoxycarbonyl-3-(p-hydroxyphenyl)propyl]-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(CCC1=CC=C(C=C1)O)C(=O)OCC)C)=O)=O | C30H40N2O6
